US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-2-trifluoromethyl-4-fluorobenzamide
Beginning with 9.0 mg (0.029 mMol) of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate and 8.1 mg (0.036 mMol) of 2-trifluoromethyl-4-fluorobenzoyl chloride, 10.5 mg (86%) of the title compound were recovered by the procedure described in Example 2.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate | 0.029 mMol, 9.0 mg | O.Cl.Cl.CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C.CN(C1CC3=C(OC2=C3C=C(C=C2)N)CC1)C.Cl.Cl
reactant | 2-trifluoromethyl-4-fluorobenzoyl chloride | 0.036 mMol, 8.1 mg | FC(C1=C(C(=O)Cl)C=CC(=C1)F)(F)F | C8H3ClF4O
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-2-trifluoromethyl-4-fluorobenzamide | 10.5 mg, 86% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=C(C=C(C=C3)F)C(F)(F)F)=O)CC1)C | C22H20F4N2O2
